US04704459
In 10 ml of N,N-dimethylformamide was suspended 1.00 g of methyl 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinate, and to the resulting suspension were added 750 mg of 3-aminopyrrolidine dihydrochloride, and 1.44 g of triethylamine, after which the resulting mixture was subjected to reaction at 70° C. for 30 minutes. Subsequently, to the reaction mixture were added 50 ml of chloroform and 50 ml of water, and the organic layer was separated, washed successively with 25 ml of water and 25 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 5 ml of diethyl ether, after which crystals were collected by filtration to obtain 1.10 g (yield 95.1%) of methyl 6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate having a melting point of 139°-140° C.

reactant | methyl 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 1.00 g | ClC1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C13H8ClF3N2O2
reactant | 3-aminopyrrolidine dihydrochloride | 750 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 1.44 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | methyl 6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 1.10 g, yield 95.1% | NC1CN(CC1)C1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C17H17F3N4O2
